US08629277B2
4-Methoxy-3-nitro-benzaldehyde
4-Methoxy-benzaldehyde (1 g, 7.34 mmol) was added to a mixture of ammonium nitrate (0.58 g, 7.34 mmol) and trifluoroacetic anhydride (3.56 mL, 25.69 mmol), which was cooled to 0° C. The reaction mixture was stirred at 0° C. for 15 min and then allowed to stir at room temperature for about 7 h. Ice was added and stirred for 30 min. The solid obtained was filtered, washed with cold water (3×5 mL) and dried.

reactant | 4-Methoxy-benzaldehyde | 7.34 mmol, 1 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | ammonium nitrate | 7.34 mmol, 0.58 g | [N+](=O)([O-])[O-].[NH4+]
reactant | trifluoroacetic anhydride | 25.69 mmol, 3.56 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Methoxy-3-nitro-benzaldehyde | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
